US08048887B2
To a 2 dram vial was added 5-bromo-2,4-dimethoxybenzoic acid (1.044 g, 4 mmol), DMF (48.2 mL), N,N-Diisopropylethylamine (2.79 mL, 16.00 mmol), 1-(pyridin-2-yl)cyclopropanamine, 2HCl (0.911 g, 4.40 mmol), and finally HATU (2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethyl isouronium hexafluorophosphate(V), 6.08 g, 16.00 mmol). The vial was capped and shaken for 16 hours at room temperature. The crude reaction mixture was diluted with 10 mL of DCM, washed with 5 mL of 1M HCl, extracted, washed with 20 mL of brine, and dried over magnesium sulfate. The solution was pushed through a plug of silica gel and evaporated to dryness. Trituration with 20 mL of diethyl ether gave 1.6 grams of 5-bromo-2,4-dimethoxy-N-(1-(pyridin-2-yl)cyclopropyl)benzamide as a tan solid (76% yield). 1H NMR (400 MHz, THF-d8) δ ppm 1.22-1.32 (m, 2H), 1.59-1.67 (m, 2H), 3.94 (s, 3H), 4.02 (s, 3H), 6.72 (s, 1H), 7.09 (m, 1H), 7.47 (d, J=8.03 Hz, 1H), 7.62 (td, J=7.72, 1.88 Hz, 1H), 8.20 (s, 1H), 8.39-8.52 (m, 2H). LCMS Rt=2.162 min., m/z 379.2 (M+2H), 96% purity.

reactant | 5-bromo-2,4-dimethoxybenzoic acid | 4 mmol, 1.044 g | BrC=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H9BrO4
reactant | DMF | 48.2 mL | CN(C)C=O | C3H7NO
reactant | N,N-Diisopropylethylamine | 16.00 mmol, 2.79 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 16.00 mmol, 6.08 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 5-bromo-2,4-dimethoxy-N-(1-(pyridin-2-yl)cyclopropyl)benzamide | 1.6 grams, 76% yield | BrC=1C(=CC(=C(C(=O)NC2(CC2)C2=NC=CC=C2)C1)OC)OC | C17H17BrN2O3
